US07943622B2
Step 2. Synthesis of N-(4-methoxyphenyl)-2-(pyridin-3-ylmethyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(4-methoxyphenylcarbamoyl)-3-(pyridin-3-ylmethyl)piperazine-1-carboxylate (76.0 mg, 0.141 mmol). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). This was concentrated under reduced pressure, yielding 30.5 mg (54%) of the desired product as an off-white solid. LC-MS: RT=2.11 min, [M+H]+=327.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-methoxyphenylcarbamoyl)-3-(pyridin-3-ylmethyl)piperazine-1-carboxylate | 0.141 mmol, 76.0 mg | COC1=CC=C(C=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC=1C=NC=CC1 | C23H30N4O4
product | N-(4-methoxyphenyl)-2-(pyridin-3-ylmethyl)piperazine-1-carboxamide dihydrochloride | 30.5 mg, 54% | Cl.Cl.COC1=CC=C(C=C1)NC(=O)N1C(CNCC1)CC=1C=NC=CC1 | InChI=1S/C18H22N4O2.2ClH/c1-24-17-6-4-15(5-7-17)21-18(23)22-10-9-20-13-16(22)11-14-3-2-8-19-12-14;;/h2-8,12,16,20H,9-11,13H2,1H3,(H,21,23);2*1H
